US04587049
To a solution of 14.65 g (50 millimoles) of trans-1-(2,4-dimethoxy-benzyl)-3-ethyl-4-oxo-2-azetidinecarboxylic acid prepared according to the preceding paragraph in 150 ml of anhydrous tetrahydrofurane 7.3 ml (52.5 millimoles) of triethyl amine are added and to the solution under stirring and ice-cooling 5.1 ml (52.5 millimoles) of ethyl-chloro-formiate are added. The mixture is cooled to -15° C., stirred at this temperature for 20 minutes and the precipitated triethyl amine salt is filtered off under argon. To the filtrate a cold solution of 22.5 g (150 millimoles) of diazomethane and 230 ml of ether is added. The solution is allowed to warm to room temperature under stirring and after 2 hours the reaction mixture is evaporated to dryness. The residue is a mixture comprising predominantly trans-4-diazoacetyl-1-(2,4-dimethoxy-benzyl)-3-ethyl-2-azetidinone and some methyl-trans-1-(2,4-dimethoxybenzyl)-3-ethyl-4-oxo-2-azetidine-carboxylate. The mixture thus obtained can be used as starting material in Example 3 directly, without purification. The benzene solution of the evaporation residue can be, however, subjected to column chromatography, if desired. (Adsorbent: Kieselgel 60. diameter 0.063-0.200 mm, eluant: benzene-acetone 7:2). Thus 9.2 g of trans-4-diazoacetyl-1-(2,4-dimethoxy-benzyl)-3-ethyl-2-azetidinone are obtained. Yield: 59%.

reactant | trans-1-(2,4-dimethoxy-benzyl)-3-ethyl-4-oxo-2-azetidinecarboxylic acid | 50 millimoles, 14.65 g | COC1=C(CN2[C@H]([C@@H](C2=O)CC)C(=O)O)C=CC(=C1)OC | C15H19NO5
reactant | tetrahydrofurane | 52.5 millimoles, 150 ml | O1CCCC1 | C4H8O
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
reactant | diazomethane | 150 millimoles, 22.5 g | [N+](=[N-])=C | CH2N2
solvent | ether | 230 ml | CCOCC | C4H10O
product | trans-4-diazoacetyl-1-(2,4-dimethoxy-benzyl)-3-ethyl-2-azetidinone | 9.2 g, Yield: 59% | [N+](=[N-])=CC(=O)[C@H]1[C@@H](C(N1CC1=C(C=C(C=C1)OC)OC)=O)CC | C16H19N3O4
